US08017792B2
Synthesis of 1-bromo-3-(4-ethoxybenzyl)-4-fluorobenzene
Preparation was performed in a similar manner as in Preparation Example 3 using 5-bromo-2-fluorobenzaldehyde and 4-bromophenetole.

reactant | 5-bromo-2-fluorobenzaldehyde | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | 4-bromophenetole | BrC1=CC=C(C=C1)OCC | C8H9BrO
product | 1-bromo-3-(4-ethoxybenzyl)-4-fluorobenzene | BrC1=CC(=C(C=C1)F)CC1=CC=C(C=C1)OCC | C15H14BrFO
